US04593102
1-[(4-Methylphenyl)sulfonyl]-3-[(phenylthio)methyl]piperidine
To a mixture of 130 g (1.23 mole) of sodium bicarbonate and 145 g (1.32 mole) of thiophenol in 1.5 liters of dimethylformamide (which had stirred at room temperature for about 1 hr) was added 1-[(4-methylphenyl)sulfonyl]-3-piperidinemethanol ester with 4-methylbenzenesulfonic acid (the oil produced in Preparation 23) in 500 ml of dimethylformamide. The mixture was stirred at 80° C. for 12 hours and then at room temperature for 48 hr. One liter of dilute sodium hydroxide was added and the mixture was stirred for 2 hr. A viscous gum formed. The gum was separated and dissolved in methylene chloride. The resulting solution was extracted with several portions of dilute aqueous sodium hydroxide. The methylene chloride phase was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was recrystallized from diethyl ether-methylene chloride to give 221.4 g (72% based on starting 3-(hydroxymethyl)piperidine in Preparation 23) of white crystalline solid, m.p. 72°-75° C.

reactant | sodium bicarbonate | 1.23 mole, 130 g | C([O-])(O)=O.[Na+]
reactant | thiophenol | 1.32 mole, 145 g | C1(=CC=CC=C1)S | C6H6S
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | sodium hydroxide | One liter | [OH-].[Na+]
reactant | 3-(hydroxymethyl)piperidine | OCC1CNCCC1 | C6H13NO
solvent | dimethylformamide | 1.5 liters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-[(4-Methylphenyl)sulfonyl]-3-[(phenylthio)methyl]piperidine | CC1=CC=C(C=C1)S(=O)(=O)N1CC(CCC1)CSC1=CC=CC=C1 | C19H23NO2S2
